US07060721B1
To a solution of 1-((tert-butyldiphenylsiloxy)methyl)-2-chloro-4-(phenoxymethyl)benzene (2.84 g) in tetrahydrofuran (14 ml) was added tetrabutyl ammonium fluoride/tetrahydrofuran solution (1.0 M, 7.0 ml) under ice-cooling and the mixture was stirred for 1.5 hr. Water was added to the reaction mixture and the resulting product was extracted twice with ethyl acetate. The organic layers were combined, washed successively with 1N hydrochloric acid, saturated aqueous sodium hydrogencarbonate solution and saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated and the residue was purified by silica gel column chromatography (hexane/ethyl acetate=5/1) to give 2-chloro-4-(phenoxymethyl)benzyl alcohol (1.38 g) as a white powder.

reactant | 1-((tert-butyldiphenylsiloxy)methyl)-2-chloro-4-(phenoxymethyl)benzene | 2.84 g | O([Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)CC1=C(C=C(C=C1)COC1=CC=CC=C1)Cl | C30H31ClO2Si
reactant | tetrabutyl ammonium fluoride tetrahydrofuran | 1.0 M, 7.0 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC.O1CCCC1
reactant | Water | O | H2O
solvent | tetrahydrofuran | 14 ml | O1CCCC1 | C4H8O
product | 2-chloro-4-(phenoxymethyl)benzyl alcohol | 1.38 g | ClC1=C(CO)C=CC(=C1)COC1=CC=CC=C1 | C14H13ClO2
